US08835454B2
Et3N (5 mL) was added into a solution of tert-butyl hexahydropyrrolo[3,4-c]pyrrole-2(1H)-carboxylate (1 g) and 5-chloro-1-phenyl-1H-tetrazole (1 g) in dioxane (50 mL). The mixture was heated to 115° C. for 24 hours. The reaction was quenched with water (50 mL). The aqueous layer was extracted with EtOAc (3×50 mL). The combined organic phase was dried over MgSO4 and concentrated to give a residue which was purified by silica gel chromatography to give tert-butyl 5-(1-phenyl-1H-tetrazol-5-yl)hexahydropyrrolo[3,4-c]pyrrole-2(1H)-carboxylate.

reactant | Et3N | 5 mL | CCN(CC)CC | C6H15N
reactant | tert-butyl hexahydropyrrolo[3,4-c]pyrrole-2(1H)-carboxylate | 1 g | C1N(CC2C1CNC2)C(=O)OC(C)(C)C | C11H20N2O2
reactant | 5-chloro-1-phenyl-1H-tetrazole | 1 g | ClC1=NN=NN1C1=CC=CC=C1 | C7H5ClN4
solvent | dioxane | 50 mL | O1CCOCC1 | C4H8O2
product | tert-butyl 5-(1-phenyl-1H-tetrazol-5-yl)hexahydropyrrolo[3,4-c]pyrrole-2(1H)-carboxylate | C1(=CC=CC=C1)N1N=NN=C1N1CC2C(C1)CN(C2)C(=O)OC(C)(C)C | C18H24N6O2
